US09382234B2
A 20 mL vial was charged with 5-chloro-3-(((trans)-4-(dimethylamino)cyclohexyl)oxy)-2-methylbenzoic acid (120 mg, 0.385 mmol), 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one, hydrochloride (80 mg, 0.423 mmol), EDC (111 mg, 0.577 mmol), HOAT (89 mg, 0.577 mmol), N,N-dimethylformamide (DMF) (3 mL), and NMM (1.015 mL, 9.24 mmol). The reaction was stirred for 16 h, at which time it was poured into a stirring solution of water (5 mL) and sat Na2CO3 (20 mL). The mixture was stirred at room temperature 1 h, but no precipitate had formed. EtOAc was added and the layers were separated. White precipitate formed in the aqueous layer. The precipitate was filtered and determined to not be the title product. LCMS showed the product in both layers, so the layers were re-combined and concentrated in vacuo. The solid residue was diluted with MeOH (3 mL) and DMSO (1 mL) and the insolubles were filtered off. The solution was purified by reverse phase HPLC (Phenomenex Gemini-NX axia 30×100 mm, 5μ, C18; 15-45% acetonitrile/0.1% formic acid in water). Since the product was running close to the solvent front, the gradient was changed to 5-45% 0.1% formic acid in water/acetonitrile and the remaining sample was purified by this method. The desired fractions were concentrated to a glassy solid. The residue was dissolved in MeOH (3 mL) and filtered through ISOLUTE® Si-Carbonate (2 g) to remove the formic acid. The ISOLUTE® Si-Carbonate was washed with MeOH (3 mL) and the combined methanol layers were concentrated in vacuo. The ISOLUTE® Si-Carbonate filtration step was repeated and the MeOH washing concentrated in vacuo to give 5-chloro-N-((2,6-dimethyl-4-oxo-1,4-dihydropyridin-3-yl)methyl)-3-(((trans)-4-(dimethylamino)cyclohexyl)oxy)-2-methylbenzamide (45 mg, 0.100 mmol, 26.0% yield), as an off-white powder. 1H NMR (400 MHz, DMSO-d6) δ 11.08 (br. s., 1H), 8.22 (br. s., 1H), 7.11 (d, J=2.02 Hz, 1H), 6.78 (d, J=1.77 Hz, 1H), 5.87 (br. s., 1H), 4.27-4.41 (m, J=4.52, 4.52, 8.40 Hz, 1H), 4.19 (d, J=5.05 Hz, 2H), 2.31 (s, 3H), 2.17-2.21 (m, 1H), 2.17 (s, 6H), 2.16 (s, 3H), 2.03 (s, 5H), 1.78 (br. s., 2H), 1.37 (t, J=9.98 Hz, 4H). MS(ES) [M+H]+ 446.1.

reactant | 5-chloro-3-(((trans)-4-(dimethylamino)cyclohexyl)oxy)-2-methylbenzoic acid | 0.385 mmol, 120 mg | ClC=1C=C(C(=C(C(=O)O)C1)C)O[C@@H]1CC[C@H](CC1)N(C)C | C16H22ClNO3
reactant | 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one, hydrochloride | 0.423 mmol, 80 mg | Cl.NCC1=C(NC(=CC1=O)C)C
reactant | EDC | 0.577 mmol, 111 mg
reactant | HOAT | 0.577 mmol, 89 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 9.24 mmol, 1.015 mL | CN1CCOCC1 | C5H11NO
reactant | Na2CO3 | 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 5 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 5-chloro-N-((2,6-dimethyl-4-oxo-1,4-dihydropyridin-3-yl)methyl)-3-(((trans)-4-(dimethylamino)cyclohexyl)oxy)-2-methylbenzamide | 0.100 mmol, 45 mg, 26.0% yield | ClC=1C=C(C(=C(C(=O)NCC2=C(NC(=CC2=O)C)C)C1)C)O[C@@H]1CC[C@H](CC1)N(C)C | C24H32ClN3O3
